US04698352
In 10 ml of methanol was dissolved 0.5 g of 6-(4-hydroxy-3-nitrophenyl)-4-oxo-1-(4-fluorophenyl)-1,4-dihydronicotinic acid, and to this solution was added 0.1 g of 5% by weight palladium carbon. The said acid was hydrogenated under atmospheric pressure for 2 hours. After completion of the reaction, the reaction mixture was filtered and the filtrate was concentrated under reduced pressure to obtain 0.45 g of 6-(4-hydroxy-3-aminophenyl)-4-oxo-1-(4-fluorophenyl)-1,4-dihydronicotinic acid having a melting point of 231°-233° C.

reactant | 6-(4-hydroxy-3-nitrophenyl)-4-oxo-1-(4-fluorophenyl)-1,4-dihydronicotinic acid | 0.5 g | OC1=C(C=C(C=C1)C=1N(C=C(C(=O)O)C(C1)=O)C1=CC=C(C=C1)F)[N+](=O)[O-] | C18H11FN2O6
solvent | methanol | 10 ml | CO | CH4O
catalyst | palladium carbon | [C].[Pd]
product | 6-(4-hydroxy-3-aminophenyl)-4-oxo-1-(4-fluorophenyl)-1,4-dihydronicotinic acid | 0.45 g | OC1=C(C=C(C=C1)C=1N(C=C(C(=O)O)C(C1)=O)C1=CC=C(C=C1)F)N | C18H13FN2O4
